US06235731B1
2) Synthesis of N-[1-(3-(2-fluorophenyl)propan-1-yl)piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Dihydrochloride
To a solution of 347 mg (0.8 mM) of N-[1-(3-(2-fluorophenyl)propan-1-yl)piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in ethanol (4 ml) was added 1.0 ml (4.0 mM) of 4N-HCl/methanol. After the solvent was distilled off under reduced pressure, ethanol and diethyl ether were added to the residue and the resulting crystals were collected by filtration and rinsed with ethanol and diethyl ether to provide the title compound.

reactant | N-[1-(3-(2-fluorophenyl)propan-1-yl)piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 0.8 mM, 347 mg | FC1=C(C=CC=C1)CCCN1CCC(CC1)CNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C25H27FN4OS
reactant | HCl methanol | Cl.CO
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | N-[1-(3-(2-fluorophenyl)propan-1-yl)piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Dihydrochloride | Cl.Cl.FC1=C(C=CC=C1)CCCN1CCC(CC1)CNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C25H27FN4OS.2ClH/c26-21-7-2-1-5-19(21)6-4-12-29-13-10-18(11-14-29)16-28-25(31)22-15-20-17-27-23-8-3-9-24(32-22)30(20)23;;/h1-3,5,7-9,15,17-18H,4,6,10-14,16H2,(H,28,31);2*1H
